US07358268B2
(i) 2-(4-Chloro-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester
1.0 g (5.9 mmol) of 4-chloro-N-hydroxy-benzamidine and 776 mg (7.96 mmol) of propynoic acid ethyl ester were dissolved in methanol and the resulting solution was boiled under reflux for 15 h. The solvent was removed under reduced pressure, and the residue was dissolved in Dowtherm A. This solution was heated to 190° C. for 2.5 h, allowed to cool, then poured into n-heptane. The precipitated product was filtered off and washed with n-heptane.

reactant | 4-chloro-N-hydroxy-benzamidine | 5.9 mmol, 1.0 g | ClC1=CC=C(C(=N)NO)C=C1 | C7H7ClN2O
reactant | propynoic acid ethyl ester | 7.96 mmol, 776 mg | C(C)OC(C#C)=O | C5H6O2
solvent | methanol | CO | CH4O
product | 2-(4-Chloro-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=NC1)C1=CC=C(C=C1)Cl | C12H11ClN2O2
